US04810708
Oxidize 10-(3-chlorophenyl)-6,7,8,9-tetrahydropyrido[2,3-b][1,6]naphthyridin-5(10H)-one (1.6 mmol) in a refluxing solution of xylene (15 ml), using air as the oxidant and 5% Pd on C (15 mg) as the catalyst. Follow the procedure of Tetrahedron Letters 26, 1259-1260 (1985); pass air through the hot solution for 15 hours. Evaporate the xylene and elute the residue from silica gel with chloroform to provide 10-(3-chlorophenyl)pyrido[2,3-b][1,6]naphthyridin-5(10H)-one, m.p. 222°-224° C. after crystallization from CH3Cl/pet. ether.

reactant | 10-(3-chlorophenyl)-6,7,8,9-tetrahydropyrido[2,3-b][1,6]naphthyridin-5(10H)-one | 1.6 mmol | ClC=1C=C(C=CC1)N1C2=C(C(C=3CNCCC13)=O)C=CC=N2 | C17H14ClN3O
catalyst | Pd | [Pd] | Pd
solvent | xylene | 15 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 10-(3-chlorophenyl)pyrido[2,3-b][1,6]naphthyridin-5(10H)-one | ClC=1C=C(C=CC1)N1C2=C(C(C3=CN=CC=C13)=O)C=CC=N2 | C17H10ClN3O
